US05418146
The procedure of Example 9 was followed excepting that: the quantity of N-benzoyl-L-aspartic acid was 2.85 g (10 mmol) and of the L-phenylalanine methyl ester was 2.69 g (15 mmol), in place of polyethylene glycol 600, polyethylene glycol 200 was used, the reaction time was 7 hours. N-benzoyl-L-aspartyl-L-phenylalanine methyl ester was obtained in the yield of 64.2%.

reactant | N-benzoyl-L-aspartic acid | C(C1=CC=CC=C1)(=O)N[C@@H](CC(=O)O)C(=O)O | C11H11NO5
reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
product | N-benzoyl-L-aspartyl-L-phenylalanine methyl ester | yield of 64.2% | COC([C@@H](NC([C@@H](NC(C1=CC=CC=C1)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C21H22N2O6
